US06689290B2
c) 3,6-difluoro-2-hexyloxyphenol
White crystals of 1,4-difluoro-2-hexyloxybenzene-1-boronic acid (48 g) were dissolved in warm toluene (150 ml) and hydrogen peroxide (43 ml, 30%) was added drop-wise. Heating was continued for 45 min at 100° C. Once the solution had cooled to room temperature water was added (50 ml) and the layers were separated. The toluene layer was washed with ferrous ammonium sulphate (10%, 2×50 ml) and water (2×50 ml). The combined organic extracts were dried with magnesium sulphate, filtered and the solvent was removed to yield crude 3,6-difluoro,2-hexyloxyphenol as a pale yellow oil (31.67 g, 100%). The crude product was dissolved in toluene (150 ml), extracted with sodium hydroxide solution (10%w/v in methanol, 3×50 ml). The purple, aqueous extract, containing the phenoxide anion of the product, was then re-acidified with concentrated HCl until all of the colour had been displaced (pH˜4). The phenol was then extracted with dichloromethane (3×100 ml), washed with water (3×50 ml), dried with magnesium sulphate and filtered. Removal of the solvent in vacuo yielded the required product as an orange/brown oil (27.2 g, 87%). Kugelrohr distillation was performed under reduced pressure (2 mbar), the colourless distillate collected when the oven temp was 100° C. was found to contain only 4 (26.5 g, 82%), (Found: C, 62.65; H, 6.9. C12H16O2F2 requires C, 62.6; H, 6.9; O, 13.91; F, 16.52%); vmax(film)/cm−1 3524 and 2932 (C—H aliph), 2300 (C═C); δH(300 MHz; CDCl3) 0.90 (3H, t, 3J(H,H)=7 Hz, —CH3), 1.32 (4H, m, 2×—CH2—), 1.34 (2H, septet, 3J(H,H)=7 Hz, —CH2CH2CH2O—Ar), 1.76 (2H, quintet, 3J(H,H)=7 Hz, —CH2CH2CH2O—Ar), 4.17 (2H, t, 3J(H,H)=7 Hz, —CH2CH2O—Ar), 5.70 (1H, s, —OH, removed with D2O), 6.58 (1H, ddd, 3J(H,F)=13.3, 3J(H,H)=7.4, 4J(H,F)=4.5 Hz, C3H), 6.74 (1H, ddd, 3J(H,F)=18.3, 3J(H,H) 7.4, 4J(H,F)=4.6 Hz, C4H); δC(75 MHz 1H{BB}, INEPT; CDCl3) 14.31 (CH3), 22.91 (CH2), 25.78 (CH2), 30.34 (CH2), 31.87 (CH2), 74.90 (CH2), 106.65 (CH, dd, 2J(C,F)=15.1, 3J(C,F)=8.4 Hz, C4), 110.75 (CH, dd, 2J(C,F)=15.1, 3J(C,F)=8.4 Hz, C5), 135.67 (C, dd, 2J(C,F)=15.1, 3J(C,F)=8.4 Hz, C1), 138.42 (C, dd, 2J(C,F)=15.1, 3J(C,F)=8.4 Hz, C2), 147.65 (C, dd, 1J(C,F)=239, 4J(C,F)=2.6 Hz, C6), 151.7 (C, dd, 1J(C,F)=248, 4J(C,F)=2.6 Hz, C3); m/z 230 (M+, 10%), 146 (M+-alkoxy chain, 100%), 43 (50%).

reactant | 1,4-difluoro-2-hexyloxybenzene-1-boronic acid | 48 g | FC1(C(C=C(C=C1)F)OCCCCCC)B(O)O | C12H19BF2O3
reactant | hydrogen peroxide | 43 ml | OO | H2O2
reactant | water | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3,6-difluoro-2-hexyloxyphenol | 27.2 g, 87% | FC=1C(=C(C(=CC1)F)O)OCCCCCC | C12H16F2O2
